US08008303B2
(S)-2-(4′-Ethoxycarbonyl-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl)-azetidine-1-carboxylic acid tert-butyl ester
A mixture of 5′-amino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid (150 mg), (S)-azetidine-1,2-dicarboxylic acid 1-tert-butyl ester (93 mg), HBTU (262 mg) and N-methyl morpholine (0.14 ml) in dry DMF (3 ml) was stirred at room temp for 18 h. The mixture was then partitioned between water and DCM. The dried organic layer was evaporated and the residue purified on silica gel. Elution with ethyl acetate:petrol 1:1 gave a pale orange oil (185 mg).

reactant | 5′-amino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid | 150 mg | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)OC(F)(F)F | C14H10F3NO3
reactant | (S)-azetidine-1,2-dicarboxylic acid 1-tert-butyl ester | 93 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(=O)O | C9H15NO4
reactant | HBTU | 262 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methyl morpholine | 0.14 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (S)-2-(4′-Ethoxycarbonyl-6-trifluoromethoxy-biphenyl-3-ylcarbamoyl)-azetidine-1-carboxylic acid tert-butyl ester | 185 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(=O)OCC)=O | C25H27F3N2O6
